US08053454B2
5-Chloro-2-(1H-tetrazol-5-yl)aniline:
2-Amino-4-chlorobenzonitrile (1000 mg, 6.6 mmol), sodium azide (555 mg, 8.5 mmol) and triethylamine hydrochloride (1175 mg, 8.5 mmol) were taken up in 15 mL of toluene. The suspension was heated to 100° C. overnight. After cooling, the reaction mixture was washed 3 times with 5 mL portions of water. The combined aqueous fractions were acidified with concentrated hydrochloric acid. The desired 5-Chloro-2-(1H-tetrazol-5-yl)aniline precipitated from aqueous solution and was isolated by filtration (1090 mg, 85% yield). 1H NMR (500 MHz, DMSO-d6) δ 7.73 (d, 1H), 6.97 (d, 1H), 6.74 (dd, 1H); MS (electrospray) m/z 196 (M+H).

reactant | 2-Amino-4-chlorobenzonitrile | 6.6 mmol, 1000 mg | NC1=C(C#N)C=CC(=C1)Cl | C7H5ClN2
reactant | sodium azide | 8.5 mmol, 555 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 8.5 mmol, 1175 mg | Cl.C(C)N(CC)CC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-(1H-tetrazol-5-yl)aniline | 85% yield | ClC=1C=CC(=C(N)C1)C1=NN=NN1 | C7H6ClN5
